US09382238B2
To a mixture of 3-nitro-5-(trifluoromethyl)benzamide (1.5 g, 6.41 mmol) in DCM (20 mL) were added Et3N (1.314 mL, 9.61 mmol) and trifluoroacetic anhydride (1.357 mL, 9.61 mmol) at 20° C. The mixture was stirred at 20° C. for 2 h. TLC (PE/EA=3:1, Rf=0.6) showed the reaction was finished. The reaction was concentrated to give crude product, which was purified by column chromatography (PE/EA=3:1, Rf=0.6) to give 3-nitro-5-(trifluoromethyl)benzonitrile (1.2 g, 5.14 mmol, 80% yield): 1H NMR (400 MHz, CDCl3-d) δ 8.71 (s, 2H), 8.24 (s, 1H).

reactant | 3-nitro-5-(trifluoromethyl)benzamide | 6.41 mmol, 1.5 g | [N+](=O)([O-])C=1C=C(C(=O)N)C=C(C1)C(F)(F)F | C8H5F3N2O3
reactant | Et3N | 9.61 mmol, 1.314 mL | CCN(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | 9.61 mmol, 1.357 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | EA | CC(OCC)=O | C4H8O2
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | 3-nitro-5-(trifluoromethyl)benzonitrile | 5.14 mmol, 1.2 g, 80% yield | [N+](=O)([O-])C=1C=C(C#N)C=C(C1)C(F)(F)F | C8H3F3N2O2
